US04000052
530 g of o-xylene in 5 liters of CCl4 was chlorinated in the nucleus in the presence of 10 g of FeCl3 by passing chlorine over the reaction solution while stirring the latter, at a pressure of 0.06 atmospheres excess pressure, with the exclusion of light. The first half of the amount of chlorine calculated for dimethyltetrachlorobenzene was introduced into the gas chamber of the reaction vessel at a liquid phase temperature of 20° C, and the remainder at 40° C. The reaction time was about 6 hours. Then, while irradiating the gas chamber in the reaction vessel with a 250-watt mercury vapor lamp at a liquid phase temperature of 70° C and 0.06 atmospheres excess pressure, the side-chain chlorination was performed, which required about 6 hours. Total chlorine consumption: 110% of the calculated amount, with respect to xylene. The reaction solution was stirred with 400 g of calcium hydroxide, which rendered the solution neutral and iron-free. The calcium hydroxide containing iron and chloride was removed on a suction filter and, after the CCl4 had been removed by distillation, the solution was fractionated at 12 Torr in a packed column. The main fraction distilled at 179°-189° C. 1242 g of 1-methyl-2-chloromethyl-3,4,5,6-tetrachlorobenzene was obtained in a purity of 88.3% (yield 78.7%). After recrystallization from isopropanol + 1,2-dichloroethane (1:1), the product had a purity of 96.4% and melted at 102°-103° C.

reactant | o-xylene | 530 g | CC=1C=CC=CC1C | C8H10
reactant | chlorine | ClCl | Cl2
reactant | dimethyltetrachlorobenzene | CC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)C | C8H6Cl4
solvent | CCl4 | 5 liters | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | mercury | [Hg] | Hg
product | 1-methyl-2-chloromethyl-3,4,5,6-tetrachlorobenzene | 1242 g, yield 78.7% | CC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)CCl | C8H5Cl5
